US08168787B2
6-hydroxy-N-(2-methyl-5-nitrophenyl)-4-(3-pyridyl)-2-pyrimidine amine 4
40 g (2-methyl-5-nitrophenyl)guanidine in 160 mL N-methyl pyrrolidone is dissolved. The mixture is heated to 150° C. and ethyl β-oxo-3-pyridine propionate is added portionwise, to 50 g total in a time period of 5 hours, distillating about 15 g of by-products under a nitrogen flow. At the end of the reaction, the mixture is cooled and diluted with ethanol. The precipitate is filtrated, yielding, upon drying, 46.4 g of product with HPLC purity of 99% (A %), identified through LC-MS and 1H-NMR.

reactant | (2-methyl-5-nitrophenyl)guanidine | 40 g | CC1=C(C=C(C=C1)[N+](=O)[O-])NC(=N)N | C8H10N4O2
reactant | ethyl β-oxo-3-pyridine propionate | O=C(CC(=O)OCC)C=1C=NC=CC1 | C10H11NO3
solvent | N-methyl pyrrolidone | 160 mL | CN1C(CCC1)=O | C5H9NO
solvent | ethanol | C(C)O | C2H6O
product | 6-hydroxy-N-(2-methyl-5-nitrophenyl)-4-(3-pyridyl)-2-pyrimidine amine | OC1=CC(=NC(=N1)NC1=C(C=CC(=C1)[N+](=O)[O-])C)C=1C=NC=CC1 | C16H13N5O3
